US07923450B2
b) [4-(3,5-Difluoro-phenyl)-4,5,6,7-tetrahydro-benzothiazol-2-yl]-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine
A suspension of [3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-thiourea (68 mg, 0.26 mmol) and of crude 2-bromo-6-(3,5-difluoro-phenyl)-cyclohexanone (78 mg, 0.27 mmol) in ethanol (2 mL) was heated to reflux under an atmosphere of nitrogen for 2 days. After cooling to room temperature the solvent was evaporated under reduced pressure and the residue was purified by reversed preparative HPLC using acetonitril/water (0.1% formic acid) to yield the title compound (40 mg, 34%) as a yellow solid. 1H NMR (CDCl3, 300 MHz): δ (ppm)=7.70 (s, 1H), 7.41 (s, 1H), 7.10 (d, 1H), 6.85 (s, 1H), 6.67-6.73 (m, 4H), 4.03 (m, 1H), 3.62 (s, 3H), 2.75 (m, 2H), 2.31 (s, 3H), 2.22 (m, 1H), 1.84 (m, 3H).

reactant | [3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-thiourea | 0.26 mmol, 68 mg | COC=1C=C(C=CC1N1C=NC(=C1)C)NC(=S)N | C12H14N4OS
reactant | 2-bromo-6-(3,5-difluoro-phenyl)-cyclohexanone | 0.27 mmol, 78 mg | BrC1C(C(CCC1)C1=CC(=CC(=C1)F)F)=O | C12H11BrF2O
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | [4-(3,5-Difluoro-phenyl)-4,5,6,7-tetrahydro-benzothiazol-2-yl]-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine | 40 mg, 34% | FC=1C=C(C=C(C1)F)C1CCCC2=C1N=C(S2)NC2=CC(=C(C=C2)N2C=NC(=C2)C)OC | C24H22F2N4OS
